US07361658B2
3 ml of acetic acid, 24 μl of a formaldehyde aqueous solution (36%) and 47 μl of N-butyl-N-methylamine were added to 150 mg of ethyl 1-(3-chloro-5-{[4-(4-chlorothiophen-2-yl)thiazol-2-yl]carbamoyl}-2-pyridyl)piperidine-4-carboxylate, and the mixture was stirred at 90° C. for 18 hours. After the solvent was distilled off under reduced pressure, a saturated sodium hydrogencarbonate aqueous solution was added. The mixture was extracted with chloroform, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography using hexane:EtOAc (7:1 to 5:1) as an elution solvent to obtain 147 mg of ethyl 1-(5-{[5-{[butyl(methyl)amino]methyl}-4-(4-chlorothiophen-2-yl)thiazol-2-yl]carbamoyl}-3-chloro-2-pyridyl)piperidine-4-carboxylate.

reactant | formaldehyde | 24 μl | C=O | CH2O
reactant | N-butyl-N-methylamine | 47 μl | C(CCC)NC | C5H13N
reactant | ethyl 1-(3-chloro-5-{[4-(4-chlorothiophen-2-yl)thiazol-2-yl]carbamoyl}-2-pyridyl)piperidine-4-carboxylate | 150 mg | ClC=1C(=NC=C(C1)C(NC=1SC=C(N1)C=1SC=C(C1)Cl)=O)N1CCC(CC1)C(=O)OCC | C21H20Cl2N4O3S2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | ethyl 1-(5-{[5-{[butyl(methyl)amino]methyl}-4-(4-chlorothiophen-2-yl)thiazol-2-yl]carbamoyl}-3-chloro-2-pyridyl)piperidine-4-carboxylate | 147 mg | C(CCC)N(C)CC1=C(N=C(S1)NC(=O)C=1C=C(C(=NC1)N1CCC(CC1)C(=O)OCC)Cl)C=1SC=C(C1)Cl | C27H33Cl2N5O3S2
